US06632810B2
Synthesis of 1,2-di(benzyloxyacetamido)-3,4,5-trimethoxybenzene:
1,2-Diamino-3,4,5-trimethoxybenzene (675 mg) and triethylamine (1.4 mL) were dissolved in dry dichloromethane (25 mL), benzyloxyacetyl chloride (1.34 mL) was added to the solution under ice cooling, and the mixture was stirred for 4 hours as it is. The reaction mixture was extracted with chloroform, and the resultant organic layer was washed with diluted hydrochloric acid, an aqueous solution of potassium carbonate, water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=2:3 to 1:1) to obtain the title compound.

reactant | 1,2-Diamino-3,4,5-trimethoxybenzene | 675 mg | NC1=C(C(=C(C(=C1)OC)OC)OC)N | C9H14N2O3
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxyacetyl chloride | 1.34 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1,2-di(benzyloxyacetamido)-3,4,5-trimethoxybenzene | C(C1=CC=CC=C1)OCC(=O)NC1=C(C(=C(C(=C1)OC)OC)OC)NC(COCC1=CC=CC=C1)=O | C27H30N2O7
